US07504508B2
(2S,4R)-N-(4-Chloro-phenyl)-N-{1-[4-(3-imidazol-1-yl-3-methyl-butoxy)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-acetamide (H-51)
3-Imidazol-1-yl-3-methyl-butan-1-ol was dissolved in benzene at room temperature with PPh3 (0.088 g, 0.33 mmol) added (2S,4R)-N-(4-chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide (0.133 g, 0.30 mmol) and stirred for 5 min. DEAD (0.058 g, 0.33 mmol) was added and the reaction was stirred for 18 h at room temperature. The reaction was concentrated and purified by silica gel chromatography (4% MeOH/96% CH2Cl2 to 5% MeOH/95% CH2Cl2 to 6% MeOH/94% CH2Cl2) to afford the product in 46% yield

reactant | 3-Imidazol-1-yl-3-methyl-butan-1-ol | N1(C=NC=C1)C(CCO)(C)C | C8H14N2O
reactant | PPh3 | 0.33 mmol, 0.088 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | (2S,4R)-N-(4-chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | 0.30 mmol, 0.133 g | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)O)=O)C | C25H23ClN2O3
reactant | DEAD | 0.33 mmol, 0.058 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (2S,4R)-N-(4-Chloro-phenyl)-N-{1-[4-(3-imidazol-1-yl-3-methyl-butoxy)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-acetamide | 46% yield | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OCCC(C)(C)N1C=NC=C1)=O)C | C33H35ClN4O3
